US08614234B2
A stirred solution of 4-aminophenol (335 mg, 3.1 mmol) in anhydrous DMSO (8 ml) was flushed with nitrogen and treated with 1M KOBut/THF solution (3.1 ml, 3.1 mmol). The mixture was stirred at room temperature under nitrogen for 10 minutes. 4,6-dichloropyridin-2-ylamine (500 mg, 3.1 mmol) was added and the mixture was heated at 88° C. for 16 hours, cooled to room temperature and poured into 100 ml of water. The resulting precipitates were filtered, washed with water and dried to give the crude product, which was purified by silica gel chromatography with 2˜5% MeOH/CHCl3 to give 4-(4-aminophenoxy)-6-chloropyridin-2-amine as light brown solid. Yield: 350 mg, 49%.

reactant | 4-aminophenol | 3.1 mmol, 335 mg | NC1=CC=C(C=C1)O | C6H7NO
reactant | THF | 3.1 mmol, 3.1 ml | C1CCOC1 | C4H8O
reactant | 4,6-dichloropyridin-2-ylamine | 3.1 mmol, 500 mg | ClC1=CC(=NC(=C1)Cl)N | C5H4Cl2N2
reactant | water | 100 ml | O | H2O
solvent | DMSO | 8 ml | CS(=O)C | C2H6OS
product | 4-(4-aminophenoxy)-6-chloropyridin-2-amine | NC1=CC=C(OC2=CC(=NC(=C2)Cl)N)C=C1 | C11H10ClN3O
